US07939662B2
To a flask equipped with magnetic stirrer, thermometer and nitrogen inlet was added 5-(2-(4-(1,2-benzisothiazol-3-yl)-1-piperazinyl)ethyl)-6-chloro-1,3-dihydro-2H-indol-2-one free base (5.0 g) and dichloromethane (100 mL) and the suspension was stirred at 20-25° C. under nitrogen. A 20.5% anhydrous solution of hydrogen chloride in isopropanol (6.45 g) was added and the mixture was stirred for about 2 h. The product was collected by filtration on a Buchner funnel. The filter cake is rinsed with 3×10 mL of dichloromethane at 20-25° C. and transferred to a drying oven and dried in vacuo at 65-70° C. for about 18 h. The crude material was re-slurried at 20-25° C. for 10 minutes with heptanes and the suspension was filtered in vacuo. The filter cake is rinsed with heptanes at 20-25° C. and transferred to a drying oven and dried in vacuo at 65-70° C. for about 12 h. to afford amorphous ziprasidone hydrochloride having the same PXRD diffractogram, IR and DSC as shown in FIGS. 1 to 3.

reactant | 5-(2-(4-(1,2-benzisothiazol-3-yl)-1-piperazinyl)ethyl)-6-chloro-1,3-dihydro-2H-indol-2-one | 5.0 g | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC=2C=C1CC(NC1=CC2Cl)=O | C21H21ClN4OS
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
reactant | hydrogen chloride | Cl | ClH
solvent | isopropanol | 6.45 g | C(C)(C)O | C3H8O
product | ziprasidone hydrochloride | C=1C=CC2=C(C1)C(=NS2)N3CCN(CC3)CCC=4C=C5C(=CC4Cl)NC(=O)C5.Cl | InChI=1S/C21H21ClN4OS.ClH/c22-17-13-18-15(12-20(27)23-18)11-14(17)5-6-25-7-9-26(10-8-25)21-16-3-1-2-4-19(16)28-24-21;/h1-4,11,13H,5-10,12H2,(H,23,27);1H
